US06774138B2
2-Bromo-1,3-thiazole (3.1 g, 19 mmol) and CuI (360 mg, 1.9 mmol) were combined in DME (30 mL) and argon gas was bubbled through the suspension for several minutes to deoxygenate the mixture. Triethylamine (13 mL, 94 mmol) and PdCl2(PPh3)2 (660 mg, 0.94 mmol) were added and 1-ethynycyclopentanol (2.5 g, 23 mmol) was added dropwise. The reaction was heated at 50° C. for 16 h at which time GC/MS analysis indicated that the reaction was complete. The mixture was filtered through Celite™, and the filter pad was washed thoroughly with ethyl acetate. The combined filtrates were concentrated in vacuo and the residue was dissolved in ethyl acetate (300 mL), washed with water (300 mL), brine (300 mL), dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by column chromatography eluting with hexane, 6:1 then 3:1 hexane:ethyl acetate to afford 1-(1,3-thiazol-2-ylethynyl)cyclopentanol (2.3 g, 52% yield) as a yellow powder. 1H NMR (CDCl3, 300 MHz) δ 7.80 (d, J=3 Hz, 1H), 7.65 (d, J=3 Hz, 1H), 2.04-1.73 (m, 10.8H). MS (EI ionization) 193 (M+).

reactant | 2-Bromo-1,3-thiazole | 19 mmol, 3.1 g | BrC=1SC=CN1 | C3H2BrNS
reactant | Triethylamine | 94 mmol, 13 mL | C(C)N(CC)CC | C6H15N
reactant | hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DME | 30 mL | COCCOC | C4H10O2
catalyst | CuI | 1.9 mmol, 360 mg | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.94 mmol, 660 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(1,3-thiazol-2-ylethynyl)cyclopentanol | 2.3 g, 52% yield | S1C(=NC=C1)C#CC1(CCCC1)O | C10H11NOS
